US03957999
A mixture of 5-methoxy-2-[4-(2-chloroethoxy)anilino]benzothiazole (200 g.), pyrrolidine (144 ml.) and 2-methoxyethanol (1 liter) is boiled under reflux for 16 hours. The mixture is evaporated from the steam bath at reduced pressure and the residue dissolved in approximately 2N hydrochloric acid. The solution is washed with ethyl acetate, basified with 40% sodium hydroxide solution and extracted with chloroform. The chloroform is washed with water, dried over magnesium sulphate and passed through a column of alumina. The column is washed with chloroform and the combined chloroform solutions evaporated. The residue is recrystallised from 2-methoxyethanol to give 5-methoxy-2-[4-(2-pyrrolidin-1-ylethoxy)anilino]benzothiazole, m.p. 167° - 168°C.

reactant | 5-methoxy-2-[4-(2-chloroethoxy)anilino]benzothiazole | 200 g | COC=1C=CC2=C(N=C(S2)NC2=CC=C(C=C2)OCCCl)C1 | C16H15ClN2O2S
reactant | pyrrolidine | 144 ml | N1CCCC1 | C4H9N
solvent | 2-methoxyethanol | 1 liter | COCCO | C3H8O2
product | 5-methoxy-2-[4-(2-pyrrolidin-1-ylethoxy)anilino]benzothiazole | COC=1C=CC2=C(N=C(S2)NC2=CC=C(C=C2)OCCN2CCCC2)C1 | C20H23N3O2S
